US07381350B2
A dioxane (380 ml) solution of 2-acetyl-7-(4-allyloxybutyloxy)fluorene 22 g was cooled to 8° C. Sodium hypobromite prepared from water 209 ml, sodium hydroxide 42.7 g and bromine 15.2 ml was dropwise added thereto, and after finishing dropwise adding, the solution was stirred at 40° C. for 15 minutes. The reaction mixture was cooled to 10° C., and then a saturated sodium thiosulfate aqueous solution was added thereto. A solid matter deposited by acidifying the solution with hydrochloric acid was filtered and then dried. The solid matter was recrystallized from acetic acid to obtain 15 g of 2-(4-allyloxybutyloxy)fluorene-7-carboxylic acid. Phase transition temperature: C164N222I.

reactant | 2-acetyl-7-(4-allyloxybutyloxy)fluorene | 22 g | C(C)(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)OCCCCOCC=C | C22H24O3
reactant | Sodium hypobromite | Br[O-].[Na+]
reactant | sodium hydroxide | 42.7 g | [OH-].[Na+]
reactant | bromine | 15.2 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 209 ml | O | H2O
solvent | dioxane | 380 ml | O1CCOCC1 | C4H8O2
product | 2-(4-allyloxybutyloxy)fluorene-7-carboxylic acid | 15 g | C(C=C)OCCCCOC1=CC=2CC3=CC(=CC=C3C2C=C1)C(=O)O | C21H22O4
